US07495103B2
To a solution of 2-methyl-2-phenyl- propionic acid (82 g, 0.5 mol) in THF (200 mL) was added dropwise borane-dimethyl sulfide (2M, 100 mL) at 0-5° C. The mixture was stirred at this temperature for 30 min and then heated at reflux for 1 h. After cooling, methanol (150 mL) and water (50 mL) were added. The mixture was extracted with EtOAc (100 mL×3), and the combined organic layers were washed with water and brine, dried over Na2SO4 and concentrated to give 2-methyl-2-phenyl-propan-1-ol as an oil (70 g, 77%).

reactant | 2-methyl-2-phenyl- propionic acid | 0.5 mol, 82 g | CC(C(=O)O)(C)C1=CC=CC=C1 | C10H12O2
reactant | borane-dimethyl sulfide | 2M, 100 mL | CSC.B
reactant | methanol | 150 mL | CO | CH4O
reactant | water | 50 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-methyl-2-phenyl-propan-1-ol | 70 g, 77% | CC(CO)(C)C1=CC=CC=C1 | C10H14O
